US07326715B2
2-Methylsulfanyl-6-(3-trifluoromethylphenyl)-pyrimidin-4-ylamine (2.42 g) was heated to 40° C. in acetic acid (6 ml) until dissolved. A solution of sodium nitrite (1.17 g in 5 ml water) was added dropwise and stirring continued for 30 minutes at 40° C. and 90 minutes at 90° C. The reaction mixture was allowed to cool to room temperature and filtered. The cake was washed with water then dissolved in ethyl acetate (200 mL) and washed with saturated sodium bicarbonate (2×300 ml). Organics were separated, dried over sodium sulphate and solvent was evaporated under reduced pressure to yield product 2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-ol (2.11 g) as a pale yellow solid.

reactant | 2-Methylsulfanyl-6-(3-trifluoromethylphenyl)-pyrimidin-4-ylamine | 2.42 g | CSC1=NC(=CC(=N1)N)C1=CC(=CC=C1)C(F)(F)F | C12H10F3N3S
reactant | sodium nitrite | 5 ml, 1.17 g | N(=O)[O-].[Na+]
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-ol | 2.11 g | CSC1=NC(=CC(=N1)O)C1=CC(=CC=C1)C(F)(F)F | C12H9F3N2OS
